US04920116
N-[2-(Diethylamino)ethyl]-N-[2,6-bis(1-methylethyl)phenyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
In a manner similar to Example I react N-[2,6-bis(1-methylethyl)phenyl]-N',N'-diethyl-1,2-ethanediamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtain the title compound.

reactant | N-[2,6-bis(1-methylethyl)phenyl]-N',N'-diethyl-1,2-ethanediamine | CC(C)C1=C(C(=CC=C1)C(C)C)NCCN(CC)CC | C18H32N2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[2-(Diethylamino)ethyl]-N-[2,6-bis(1-methylethyl)phenyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)N(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C1=C(C=CC=C1C(C)C)C(C)C)CC | InChI=1S/C26H39N3O3S.ClH/c1-8-28(9-2)17-18-29(25-23(19(3)4)11-10-12-24(25)20(5)6)26(30)21-13-15-22(16-14-21)27-33(7,31)32;/h10-16,19-20,27H,8-9,17-18H2,1-7H3;1H
